US06710043B1
To a suspension of 1-acetyl-4-aminopiperidine hydrochloride (0.4 g) in dichloromethane (5 ml) were added in turn pyridine (0.54 ml) and 4-fluorophenyl chloroformate (0.29 ml) at 0° C. The mixture was allowed to warm to ambient temperature and stirred for 1 hour, which was taken up into a mixture of water and ethyl acetate. The separated organic layer was washed in turn with hydrochloric acid (1N), aqueous sodium hydrogen carbonate, and brine, and dried over magnesium sulfate. Evaporation under reduced pressure gave a residue, which was triturated with diisopropyl ether to give 1-acetyl-4-(4-fluorophenoxycarbonylamino)piperidine (347 mg).

reactant | 1-acetyl-4-aminopiperidine hydrochloride | 0.4 g | Cl.C(C)(=O)N1CCC(CC1)N
reactant | pyridine | 0.54 ml | N1=CC=CC=C1 | C5H5N
reactant | 4-fluorophenyl chloroformate | 0.29 ml | ClC(=O)OC1=CC=C(C=C1)F | C7H4ClFO2
reactant | water | O | H2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-acetyl-4-(4-fluorophenoxycarbonylamino)piperidine | 347 mg | C(C)(=O)N1CCC(CC1)NC(=O)OC1=CC=C(C=C1)F | C14H17FN2O3
